US07074817B2
6-(4-tert-Butyl-phenyl)-1-methyl-1H-indole-3-carboxylic acid
6-(4-tert-Butyl-phenyl)-1-methyl-1H-indole-3-carboxylic acid was prepared from 6-(4-tert-butyl-phenyl)-1-methyl-1H-indole (0.541 g, 2.05 mmol), n-butyllithium (0.98 mL, 2.5 mmol), crushed dry ice (3 g, 70 mmol) in dry THF (10 mL) according to the procedure described in Example 60. Purification by flash chromatography using 10-50% ethyl acetate in hexane and 100% ethyl acetate as eluants afforded the title compound as a light yellow solid (0.0675 g, 10.7%), mp: 236-238° C. (dec.). Mass spectrum (−APCI, [M−H]−) m/z 306. 1HNMR (400 MHz, DMSO-d6): δ 12.8-13.0 (br s, 1H), 7.8 (s, 1H), 7.65-7.7 (m, 3H), 7.45-7.5 (m, 2H), 7.4 (dd, 1H, J=8.3 Hz and 1.6 Hz), 7.2 (d, 1H, J=0.75 Hz), 4.05 (s, 3H) and 1.35 ppm (s, 9H).

reactant | 6-(4-tert-butyl-phenyl)-1-methyl-1H-indole | 2.05 mmol, 0.541 g | C(C)(C)(C)C1=CC=C(C=C1)C1=CC=C2C=CN(C2=C1)C | C19H21N
reactant | n-butyllithium | 2.5 mmol, 0.98 mL | C(CCC)[Li]
reactant | dry ice | 70 mmol, 3 g | C(=O)=O | CO2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 6-(4-tert-Butyl-phenyl)-1-methyl-1H-indole-3-carboxylic acid | 0.0675 g, 10.7% | C(C)(C)(C)C1=CC=C(C=C1)C1=CC=C2C(=CN(C2=C1)C)C(=O)O | C20H21NO2
